US08466122B2
To a solution of (6Z,9Z,28Z,31Z)-19-((8Z,11Z)-heptadeca-8,11-dienyl)heptatriaconta-6,9,28,31-tetraene-18,19-diol (540 mg, 0.67 mmol) in anhydrous ether (5 mL) was added pyridine (81 μL, 1.0 mmol). To this solution was added diphosgene (132 μL, 1.1 mmol) slowly over 5 minutes. The solution was stirred for 2 hours at room temperature then concentrated in vacuo to dryness and purified by column chromatography on silica gel 60 (eluted with 5% ether in hexanes) to afford 4,5-di((8Z,11Z)-heptadeca-8,11-dienyl)-4-((9Z,12Z)-octadeca-9,12-dienyl)-1,3-dioxolan-2-one as a colorless oil (310 mg, 57%).

reactant | (6Z,9Z,28Z,31Z)-19-((8Z,11Z)-heptadeca-8,11-dienyl)heptatriaconta-6,9,28,31-tetraene-18,19-diol | 0.67 mmol, 540 mg | C(CCCCCC\C=C/C\C=C/CCCCC)C(C(CCCCCCC\C=C/C\C=C/CCCCC)O)(CCCCCCCC\C=C/C\C=C/CCCCC)O | C54H98O2
reactant | pyridine | 1.0 mmol, 81 μL | N1=CC=CC=C1 | C5H5N
reactant | diphosgene | 1.1 mmol, 132 μL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | ether | 5 mL | CCOCC | C4H10O
product | 4,5-di((8Z,11Z)-heptadeca-8,11-dienyl)-4-((9Z,12Z)-octadeca-9,12-dienyl)-1,3-dioxolan-2-one | 310 mg, 57% | C(CCCCCC\C=C/C\C=C/CCCCC)C1(OC(OC1CCCCCCC\C=C/C\C=C/CCCCC)=O)CCCCCCCC\C=C/C\C=C/CCCCC | C55H96O3
